US05576324
2-Azidomethyl-2,3,5,8-tetramethyl-2,3,6,7-tetrahydrofuro [2,3-f]quinoline-7-one
To a mixture of 2-iodomethyl-2,3,5,8-tetramethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (1.75 g, 4.57 mmol) and sodium azide (3.5 g, 53.8 mmol), dimethylformamide (24 ml) was added, and the mixture was stirred for 3 hours in a bath at 150° C. After cooling, post-treatment and recrystallization (chloroform-n-hexane) were performed in a manner similar to that described in Example 278 to obtain 1.13 g of the title compound as pale yellow crystals (83.0%).

reactant | 2-iodomethyl-2,3,5,8-tetramethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 4.57 mmol, 1.75 g | ICC1(C(C=2C(=C3C=C(C(NC3=C(C2)C)=O)C)O1)C)C | C16H18INO2
reactant | sodium azide | 53.8 mmol, 3.5 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
product | 2-Azidomethyl-2,3,5,8-tetramethyl-2,3,6,7-tetrahydrofuro [2,3-f]quinoline-7-one | 1.13 g, 83.0% | N(=[N+]=[N-])CC1(C(C=2C(=C3C=C(C(NC3=C(C2)C)=O)C)O1)C)C | C16H18N4O2
